* Component by Agustin Gullino, Electronics Engineering Student at ITBA
* email: agullino@itba.edu.ar

.subckt Gyrator V1+ V1- V2+ V2- PARAMS: R=1
Rin V1+ I1in 1m
VI1 I1in I1out 0
HV1 I1out V1- VI2 {-R}
Rout V2+ I2in 1m
VI2 I2in I2out 0
HV2 I2out V2- VI1 {R}
.ends Gyrator 
